US06846827B1
4-[5-(3-Fluoro-5-morpholinobenzamido)-2-methylanilino]-2-morpholinopyrimidine
A mixture of 4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]2-methylthiopyrimidine (0.228 g) and morpholine (1 ml) was stirred and heated to 150° C. for 10 days. The reaction mixture was allowed to cool to ambient temperature and poured into water (10 ml). The resultant precipitate was collected by filtration and dried in a vacuum oven at 60° C. for 16 hours. There was thus obtained the title compound (0.175 g); NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 3.21 (m, 4H), 3.59 (m, 8H), 3.74 (m, 4H), 5.98 (d, 1H), 6.96 (m, 1H), 7.09 (m, 1H), 7.18 (m, 1H), 7.26 (m, 1H), 7.38 (m, 1H), 7.89 (d, 1H), 8.01 (m, 1H), 8.49 (s, 1H), 10.07 (s, 1H); Mass Spectrum: M+H+ 493.

reactant | 4-[5-(3-fluoro-5-morpholinobenzamido)-2-methylanilino]2-methylthiopyrimidine | 0.228 g | FC=1C=C(C(=O)NC=2C=CC(=C(NC3=NC(=NC=C3)SC)C2)C)C=C(C1)N1CCOCC1 | C23H24FN5O2S
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
solvent | water | 10 ml | O | H2O
product | 4-[5-(3-Fluoro-5-morpholinobenzamido)-2-methylanilino]-2-morpholinopyrimidine | 0.175 g | FC=1C=C(C(=O)NC=2C=CC(=C(NC3=NC(=NC=C3)N3CCOCC3)C2)C)C=C(C1)N1CCOCC1 | C26H29FN6O3
